US08202857B2
(S)-7-(2-hydroxy-2-methylpropyl)-3-((S)-1-(4-(1-methyl-2-oxo-1,2-dihydropyridin-4-yl)phenyl)ethyl)-7-phenyl-1,3-oxazepan-2-one
The title compound was prepared from (S)-7-(2-hydroxy-2-methylpropyl)-7-phenyl-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazepan-2-one and 4-iodo-1-methylpyridin-2(1H)-one following a procedure analogous to that described in Example 18 Step 2. LC-MS Method 4 tR=1.11 min, m/z=497, 475, 457, 417.

reactant | (S)-7-(2-hydroxy-2-methylpropyl)-7-phenyl-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazepan-2-one | OC(C[C@@]1(CCCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C1=CC=CC=C1)(C)C | C29H40BNO5
reactant | 4-iodo-1-methylpyridin-2(1H)-one | IC1=CC(N(C=C1)C)=O | C6H6INO
product | (S)-7-(2-hydroxy-2-methylpropyl)-3-((S)-1-(4-(1-methyl-2-oxo-1,2-dihydropyridin-4-yl)phenyl)ethyl)-7-phenyl-1,3-oxazepan-2-one | OC(C[C@@]1(CCCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)C1=CC(N(C=C1)C)=O)C1=CC=CC=C1)(C)C | C29H34N2O4
